US07015218B1
N-{3-Cyano-4-[4-(3,4,5,6-tetrahydro-2H-pyran-4-yl)piperazin-1-yl]phenyl}-5-methyl-1-(4-trifluoromethylphenyl)pyrazole 4-carboxamide
By the reaction and treatment in the same manner as in Example 64 using 5-methyl-1-(4-trifluoromethylphenyl)pyrazole-4-carboxylic acid (1.1 g) and 5-amino-2-[4-(3,4,5,6-tetrahydro-2H-pyran-4-yl)piperazin-1-yl]benzonitrile (1.1 g), the title compound (1.0 g) was obtained, melting point: 274° C.

reactant | 5-methyl-1-(4-trifluoromethylphenyl)pyrazole-4-carboxylic acid | 1.1 g | CC1=C(C=NN1C1=CC=C(C=C1)C(F)(F)F)C(=O)O | C12H9F3N2O2
reactant | 5-amino-2-[4-(3,4,5,6-tetrahydro-2H-pyran-4-yl)piperazin-1-yl]benzonitrile | 1.1 g | NC=1C=CC(=C(C#N)C1)N1CCN(CC1)C1CCOCC1 | C16H22N4O
product | N-{3-Cyano-4-[4-(3,4,5,6-tetrahydro-2H-pyran-4-yl)piperazin-1-yl]phenyl}-5-methyl-1-(4-trifluoromethylphenyl)pyrazole 4-carboxamide | 1.0 g | C(#N)C=1C=C(C=CC1N1CCN(CC1)C1CCOCC1)NC(=O)C=1C=NN(C1C)C1=CC=C(C=C1)C(F)(F)F | C28H29F3N6O2
